US03974278
15 g of 3-nitrobenzaldehyde, 18 g of γ-ethoxyacetoacetic acid ethyl ester and 13 g of β-aminocrotonic acid ethyl ester are heated in 60 ml of ethanol for about 5 hours, the mixture is cooled and the product is filtered off and rinsed with cold ethanol. 2-Ethoxymethyl-6-methyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester is obtained, in the form of light yellow crystals of melting point 120°-122°C, in a yield of 70% of theory.

reactant | 3-nitrobenzaldehyde | 15 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | γ-ethoxyacetoacetic acid ethyl ester | 18 g | C(C)OC(CC(=O)COCC)=O | C8H14O4
reactant | β-aminocrotonic acid ethyl ester | 13 g | C(C)OC(\C=C(\C)/N)=O | C6H11NO2
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2-Ethoxymethyl-6-methyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | yield of 70% | C(C)OC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C)COCC | C21H26N2O7
